US07312241B2
A solution of 6-bromo-2,3-dihydrobenzo[1,4]dioxine (1.09 g, 5.07 mmol) in anhydrous THF (10 ml) was cooled to −78° C., evacuated and refilled with nitrogen for ten cycles. To this clear solution was slowly added n-butyl lithium (2.03 ml, 5.07 mmol) and stirred for 30 min. Then a solution of 3,5-dimethoxybenzaldehyde (0.77 g, 4.61 mmol) in anhydrous THF (10 ml) was added via a syringe. The mixture was stirred at −78° C. under nitrogen for 4 h then quenched with 2-propanol (2.10 ml, 27.65 mmol) and stirred overnight. To the orange colored mixture was added 30 ml of water and extracted with ether (3×60 ml). The combined ether extracts was washed with water (2×60 ml), dried over MgSO4, filtered and concentrated in vacuo to an oil, which was purified via flash column chromatography (10% EtOAc in hexane gradient to 40% EtOAc in hexane in about 40 min.) to give (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3,5-dimethoxy-phenyl)-methanol as a light brown oil (1.27 g, 91%), HPLC purity was 93.4% at 3.45 min. (50/50 ACN/0.1% H3PO4): 1HNMR (CDCl3) δ 6.88-6.79 (m, 3H, Ar), 6.54 (d, J=2 Hz, 2H, Ar), 6.35 (t, J=2 Hz, 1H, Ar), 5.65 (d, J=3 Hz, 1H, CH), 4.22 (m, 4H, 2CH2), 3.77 (s, 6H, OCH3), 2.25 (d, J=3 Hz, 1H, OH). The product was carried over to the next step.

reactant | 6-bromo-2,3-dihydrobenzo[1,4]dioxine | 5.07 mmol, 1.09 g | BrC1=CC2=C(OCCO2)C=C1 | C8H7BrO2
reactant | n-butyl lithium | 5.07 mmol, 2.03 ml | C(CCC)[Li]
reactant | 3,5-dimethoxybenzaldehyde | 4.61 mmol, 0.77 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | 2-propanol | 27.65 mmol, 2.10 ml | CC(C)O | C3H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3,5-dimethoxy-phenyl)-methanol | 1.27 g, 91% | O1CCOC2=C1C=CC(=C2)C(O)C2=CC(=CC(=C2)OC)OC | C17H18O5
